US07253286B2
4-(2,3-Dimethyl-4-(methylaminocarbonyl)aminophenoxy)-7-methoxy-6-quinolinecarboxamide
The title compound (30 mg) was obtained as colorless crystals from phenyl N-(4-(6-carbamoyl-7-methoxy-4-quinolyl)oxy-2,3-dimethylphenyl)carbamate) (56 mg) and methylamine (2M tetrahydrofuran solution), by the same procedure as in Example 11.

reactant | phenyl N-(4-(6-carbamoyl-7-methoxy-4-quinolyl)oxy-2,3-dimethylphenyl)carbamate | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(OC1=CC=CC=C1)=O)C)C | C26H23N3O5
reactant | methylamine | 2M | CN | CH5N
product | 4-(2,3-Dimethyl-4-(methylaminocarbonyl)aminophenoxy)-7-methoxy-6-quinolinecarboxamide | 30 mg | CC1=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)N)OC)C=CC(=C1C)NC(=O)NC | C21H22N4O4
